US04144338
B. 2-Acetamido-4-methyl-6-benzyloxypyrimidine
Acetic anhydride (15.3 g., 0.15 mole) is added to a stirred suspension of 2-amino-4-methyl-6-benzyloxypyrimidine (23.6 g., 0.11 mole) in 150 ml of benzene. The mixture is heated at reflux for 4 hours. It is cooled, neutralized with aqueous sodium carbonate and the benzene layer separated. The benzene solution is concentrated under vacuum to an oil from which 2-acetamido-4-methyl-6-benzyloxy-pyrimidine melting at 121°-122° C. is isolated by crystallization from hexane n-butyl chloride.

reactant | Acetic anhydride | 0.15 mole, 15.3 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-amino-4-methyl-6-benzyloxypyrimidine | 0.11 mole, 23.6 g | NC1=NC(=CC(=N1)C)OCC1=CC=CC=C1 | C12H13N3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 2-Acetamido-4-methyl-6-benzyloxypyrimidine | C(C)(=O)NC1=NC(=CC(=N1)C)OCC1=CC=CC=C1 | C14H15N3O2
